US05885967
A) Preparation of N(CH2CH2COOBn)Gly-O-t-Bu
To a solution of glycine t-butyl ester hydrochloride (20.7 g, 123 mmol) in DMF (50 mL) was added DIEA (21.5 mL, 123 mmol) and benzyl acrylate (20 g, 123 mmol). The mixture was allowed to stir at room temperature for 4 hours. This solution was concentrated in vacuo and the residue partitioned between saturated aqueous NaHCO3 and ethyl acetate and separated. The organic layer was washed once with saturated aqueous NaHCO3 and twice with brine. The ethyl acetate layer was dried (MgSO4), filtered and concentrated in vacuo to give 30 g (83%) of a slightly amber oil.

reactant | glycine t-butyl ester hydrochloride | 123 mmol, 20.7 g | Cl.C(C)(C)(C)OC(CN)=O
reactant | DIEA | 123 mmol, 21.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | benzyl acrylate | 123 mmol, 20 g | C(C=C)(=O)OCC1=CC=CC=C1 | C10H10O2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | N(CH2CH2COOBn)Gly-O-t-Bu | N(CC(=O)OC(C)(C)C)CCC(=O)OCC1=CC=CC=C1 | C16H23NO4
